US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid dicyclooctyl ester
The title compound was prepared as a white gum from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and cyclooctanol according to the procedure of Example 1; yield 84%; Rf =0.30 (10/1 CHCl3 /MeOH); 1H NMR (300 MHz, CDCl3): δ 1.30-1.39 (brd, 3H), 1.40-1.92 (m, 28H), 2.72-2.87 (m, 1H), 3.06-3.30 (m, 2H), 3.39-3.52 (m, 2H), 3.80-3.91 (m, 1H), 5.02-5.13 (m, 1H), 5.40-5.80 (m, 1H), 6.71-6.89 (m, 4H), 7.21-7.37 (m, 2H), 7.44 (s, 1H), 8.73 (brs, 1H), 10.11 (brs, 1H); MS (ES) m/z (relative intensity): 679 (M+, 100).

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | cyclooctanol | C1(CCCCCCC1)O | C8H16O
solvent | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid dicyclooctyl ester | yield 84% | C1(CCCCCCC1)OC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OC2CCCCCCC2 | C36H48ClNO7
